US06274737B1
(1RS, 2SR, 3SR)-1-(4-Fluorophenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
To a solution of ethyl 3-(3,4-methylenedioxyphenyl)-1-oxoindene-2-carboxylate (100 mg, 0.31 mmol) in THF (5 ml) under an argon atmosphere at 0° C. was added a solution of freshly prepared 4-fluorophenyl magnesium bromide (0.62 mmol). After stirring for 45 min, the mixture was partitioned between 3M HCl and EtOAc. The organic extract was washed successively with H2O, 5% aqueous NaHCO3 and saturated aqueous NaCl. The solvent was removed in vacua, and the residue was purified by flash chromatography, eluting with 15% EtOAc/hexanes to afford the title compound (45 mg, 35%).

reactant | ethyl 3-(3,4-methylenedioxyphenyl)-1-oxoindene-2-carboxylate | 0.31 mmol, 100 mg | C1OC=2C=C(C=CC2O1)C1=C(C(C2=CC=CC=C12)=O)C(=O)OCC | C19H14O5
reactant | 4-fluorophenyl magnesium bromide | 0.62 mmol | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-Fluorophenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | 45 mg, 35% | FC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C23H17FO4
